US04886804
2-Amino-1-phenoxy-propene
0.2 mol of phenoxyacetone in 200 ml of tetrahydrofuran is saturated at reflux temperature with ammonia gas with the addition of 0.2 g of p-toluene sulphonic acid. The mixture is allowed to stand at room temperature for 24 hours and the solvent is then removed by evaporation in vacuo. The evaporation residue is employed crude in the reaction of Example 5B.

reactant | phenoxyacetone | 0.2 mol | O(C1=CC=CC=C1)CC(C)=O | C9H10O2
reactant | ammonia | N | H3N
reactant | p-toluene sulphonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-Amino-1-phenoxy-propene | NC(=COC1=CC=CC=C1)C | C9H11NO
